US04394504
Methyl 2-(3-Tritylamino-5-Isoxazolyl)-2-Methoxyiminoacetate
A solution of sodium methoxide in methanol is added at room temperature, until a pink color persists, to 10.3 mg. (0.12 mmol) of o-methylhydroxylamine hydrochloride in dry MeOH containing a few crystals of phenolphthalein and 3 A molecular sieves. Methyl 2-(3-tritylamino-5-isoxazolyl)-2-ketoacetate (17.8 mg., 0.04 mmol) is then added and the reaction stirred at 65° C. for 5 hours. The sieves are removed by filtration and the filtrate concentrated to dryness under reduced pressure. After chromatography on silica gel (60-200 mesh) using 5:2 hexane:EtOAc as an eluent the title compound is isolated as a mixture of syn- and anti-methyloximes (13.7 mg., 72%).

reactant | sodium methoxide | C[O-].[Na+]
reactant | o-methylhydroxylamine hydrochloride | 0.12 mmol | CO[NH3+].[Cl-]
reactant | phenolphthalein | C=1C=CC2=C(C1)C(=O)OC2(C=3C=CC(=CC3)O)C=4C=CC(=CC4)O | C20H14O4
reactant | Methyl 2-(3-tritylamino-5-isoxazolyl)-2-ketoacetate | 0.04 mmol, 17.8 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC1=NOC(=C1)C(C(=O)OC)=O | C25H20N2O4
solvent | methanol | CO | CH4O
product | Methyl 2-(3-Tritylamino-5-Isoxazolyl)-2-Methoxyiminoacetate | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC1=NOC(=C1)C(C(=O)OC)=NOC | C26H23N3O4
